US05011947
1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-[2-methyl-1-(1-methylethyl)propyl]-3-oxo-6,8-nonadienoate
A solution of the dianion of 1,1-dimethylethyl acetoacetate (15 mL of 1M solution, 15 mmol) was added to a solution of 5,5-bis(4-fluorophenyl)-4-[2-methyl-1-(1-methylethyl)propyl]-2,4-pentadienal (4.1 g, 11.1 mmol) in tetrahydrofuran at -60° C. After stirring for 3 hours the reaction was quenched with 2N hydrochloric acid and the mixture extracted with diethyl ether. The extracts were dried with magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 5% ethyl acetate in hexane to give 3.2 g of the title compound as an oil. MS(CI): m/e =526 for M+ of C32H40F2O4.

reactant | 1,1-dimethylethyl acetoacetate | 15 mmol, 1M, 15 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | 5,5-bis(4-fluorophenyl)-4-[2-methyl-1-(1-methylethyl)propyl]-2,4-pentadienal | 11.1 mmol, 4.1 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C(C(C)C)C(C)C)C1=CC=C(C=C1)F | C24H26F2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-[2-methyl-1-(1-methylethyl)propyl]-3-oxo-6,8-nonadienoate | 3.2 g | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OC(C)(C)C)=O)O)C(C(C)C)C(C)C)C1=CC=C(C=C1)F | C32H40F2O4
